US07943622B2
Step 3. Synthesis of N-(4-hydroxyphenyl)-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of (R)-tert-butyl 4-(4-hydroxyphenylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt (182 mg, 0.335 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure, yielding 118 mg (88%) of the title compound as a white solid. LC-MS: RT=2.11 min, [M+H]+=329.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | (R)-tert-butyl 4-(4-hydroxyphenylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt | 0.335 mmol, 182 mg | OC(=O)C(F)(F)F.OC1=CC=C(C=C1)NC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1
solvent | MeOH | 1 mL | CO | CH4O
product | N-(4-hydroxyphenyl)-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide dihydrochloride | 118 mg, 88% | Cl.Cl.OC1=CC=C(C=C1)NC(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C17H20N4O3.2ClH/c22-15-5-3-13(4-6-15)20-17(23)21-9-8-19-10-14(21)12-24-16-2-1-7-18-11-16;;/h1-7,11,14,19,22H,8-10,12H2,(H,20,23);2*1H
